US09284331B2
Step 2: 2-(4-cyclopropyl-1H-imidazol-1-yl)-1-methyl-9-(3-methylisoxazol-5-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one.
Example 107. A mixture of 2-(4-cyclopropyl-1H-imidazol-1-yl)-9-iodo-1-methyl-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one (8 mg, 17 μmol), 3-methyl-5-(tributylstannyl)isoxazole (10 mg, 26 μmol) and Pd(PPh3)4 (1.0 mg, 0.9 μmol) in dioxane (0.2 mL) is heated to 140° C. for 1.5 h under N2 in a microwave reactor. The mixture was then concentrated in vacuo the residue obtained was purified by SFC (column: 2-Ethylpyridine 5 μm, 250×30 mm, 60 A, Princeton; eluent: 8% MeOH/CO2 for 1 min, then from 8% MeOH/CO2 to 13% MeOH/CO2 in 6 min; then from 13% MeOH/CO2 to 50% MeOH/CO2 in 1 min; flow 100 mL/min; UV detection at 220 nm) to afford the title compound (4 mg) as a beige solid. UPLC-MS: MS 414.2 (M+H+); UPLC rt 0.88 min. 1H NMR (400 MHz, CHLOROFORM-d): δ ppm 0.74-0.88 (m, 4 H); 1.74-1.91 (m, 1 H); 2.18 (s, 3 H); 2.42 (s, 3 H); 2.81 (td, J=14.68, 5.27 Hz, 1 H); 3.17 (td, J=13.49, 3.64 Hz, 1 H); 3.45 (m., 1 H); 3.91-4.02 (m, 2 H); 4.70 (d, J=10.79 Hz, 1 H); 6.32 (s, 1 H); 6.95 (s, 1 H); 7.45 (t, J=7.65 Hz, 1 H); 7.56 (d, J=7.78 Hz, 1 H); 7.66-7.76 (m, 2 H).

reactant | 2-(4-cyclopropyl-1H-imidazol-1-yl)-9-iodo-1-methyl-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 17 μmol, 8 mg | C1(CC1)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)I)=C1C)=O | C20H19IN4O
reactant | 3-methyl-5-(tributylstannyl)isoxazole | 26 μmol, 10 mg | CC1=NOC(=C1)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.9 μmol, 1.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-cyclopropyl-1H-imidazol-1-yl)-1-methyl-9-(3-methylisoxazol-5-yl)-7,8-dihydro-[1,4]diazepino[7,1-a]isoquinolin-5(4H)-one | 4 mg | C1(CC1)C=1N=CN(C1)C1=NCC(N2C(C3=CC=CC(=C3CC2)C2=CC(=NO2)C)=C1C)=O | C24H23N5O2
